US05998433
b) Synthesis of 1-(2-diethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one hydrochloride
1-(2-Diethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one 0.209 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | 1-(2-Diethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one | 0.209 g | C(C)N(CC)CC1=CC=2CN(CCC2O1)C(CCCCCC1=CC=CC=C1)=O | C24H34N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 1-(2-diethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one hydrochloride | Cl.C(C)N(CC)CC1=CC=2CN(CCC2O1)C(CCCCCC1=CC=CC=C1)=O | InChI=1S/C24H34N2O2.ClH/c1-3-25(4-2)19-22-17-21-18-26(16-15-23(21)28-22)24(27)14-10-6-9-13-20-11-7-5-8-12-20;/h5,7-8,11-12,17H,3-4,6,9-10,13-16,18-19H2,1-2H3;1H
